US05306728
0.57 g of potassium phthlimide was suspended in 20 ml of dimethylformamide, and 2.42 g of α,α-dibromo-m-xylene was added. The mixture was stirred overnight at room temperature, and then ethyl ether and water were added. The organic layer separated was worked up in a customary manner, and the product was purified by silica gel column chromatography [hexane / ethyl acetate=10/1] to give 0.52 g of N-(3-bromomethylbenzyl)phthalimide as a white crystalline powder.

reactant | potassium phthlimide | 0.57 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | α,α-dibromo-m-xylene | 2.42 g | BrC(C1=CC(=CC=C1)C)Br | C8H8Br2
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(3-bromomethylbenzyl)phthalimide | 0.52 g | BrCC=1C=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C16H12BrNO2
